US05705499
5,11-Dihydro-11-ethyl-5-methyl-8-[2-(pyrid-4-yl)ethyl]-6H-dipyrido[3,2-b:2',3'-e][1,4]diazepin-6-one
The title compound was prepared from 5,11-Dihydro-11-ethyl-5-methyl-8-[trans-2-(4-pyridyl)ethen-1-yl]-6H-dipyrido[3,2-b:2',3'-e][1,4]diazepin-6-one (0.38 g, 1.0 mmol) by catalytic hydrogenation over platinum oxide in ethyl acetate at 150 p.s.i. and 60° C. Recrystallization from ethyl acetate/hexanes afforded 0.18 g of the product as off-white crystals, m.p. 109°-110° C.

reactant | 5,11-Dihydro-11-ethyl-5-methyl-8-[trans-2-(4-pyridyl)ethen-1-yl]-6H-dipyrido[3,2-b:2',3'-e][1,4]diazepin-6-one | 1.0 mmol, 0.38 g | C(C)N1C2=C(N(C(C3=C1N=CC(=C3)\C=C\C3=CC=NC=C3)=O)C)C=CC=N2 | C21H19N5O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | platinum oxide | [Pt]=O
product | 5,11-Dihydro-11-ethyl-5-methyl-8-[2-(pyrid-4-yl)ethyl]-6H-dipyrido[3,2-b:2',3'-e][1,4]diazepin-6-one | C(C)N1C2=C(N(C(C3=C1N=CC(=C3)CCC3=CC=NC=C3)=O)C)C=CC=N2 | C21H21N5O
